US09422292B2
To a solution of 2-(6-(4-chlorophenyl)-1-methyl-5-oxo-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepin-4-yl)acetic acid (500 mg, 1.32 mmol) in THF (300 ml) was added BH3 solution in THF (1 M, 6.5 mL) dropwise, the resulting mixture was stirred at room temperature overnight. NH4Cl aqueous (15 mL) was added, and then extracted with DCM (3×30 mL), the combined organic layers were dried over Na2SO4, and the solvent was removed in vacuum. The residue was purified by flash chromatography eluting with DCM:MeOH=40:1 to give 2-(6-(4-chlorophenyl)-1-methyl-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepin-4-yl)ethanol as an off-white solid (90 mg, 18.5%).

reactant | 2-(6-(4-chlorophenyl)-1-methyl-5-oxo-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepin-4-yl)acetic acid | 1.32 mmol, 500 mg | ClC1=CC=C(C=C1)N1C2=C(N3C(C(C1=O)CC(=O)O)=NN=C3C)C=CC=C2 | C19H15ClN4O3
reactant | NH4Cl | 15 mL | [NH4+].[Cl-]
solvent | THF | 300 ml | C1CCOC1 | C4H8O
solvent | THF | 1 M, 6.5 mL | C1CCOC1 | C4H8O
product | 2-(6-(4-chlorophenyl)-1-methyl-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepin-4-yl)ethanol | 90 mg, 18.5% | ClC1=CC=C(C=C1)N1C2=C(N3C(C(C1)CCO)=NN=C3C)C=CC=C2 | C19H19ClN4O
